US07612099B2
2-[(5-Fluoro-3-methyl-1H-indol-2-yl)-phenyl-methyl]-3-hydroxy-4-phenyl-cyclopent-2-enone
Using general procedure D, rac-3-hydroxy-4-phenyl-cyclopent-2-enone (Lit. 17) was reacted with benzaldehyde and 5-fluoro-3-methyl-1H-indole to give the title compound as a red solid. MS: 412.0 ([M+H]+).

reactant | rac-3-hydroxy-4-phenyl-cyclopent-2-enone | OC1=CC(CC1C1=CC=CC=C1)=O | C11H10O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 5-fluoro-3-methyl-1H-indole | FC=1C=C2C(=CNC2=CC1)C | C9H8FN
product | 2-[(5-Fluoro-3-methyl-1H-indol-2-yl)-phenyl-methyl]-3-hydroxy-4-phenyl-cyclopent-2-enone | FC=1C=C2C(=C(NC2=CC1)C(C=1C(CC(C1O)C1=CC=CC=C1)=O)C1=CC=CC=C1)C | C27H22FNO2
